US09328138B2
Step 1: 1-[({[(1R,2R)-2-(pent-4-yn-1-yl)cyclopropyl]oxy}carbonyl)oxy]pyrrolidine-2,5-dione
To a solution of (1R,2R)-2-(pent-4-en-1-yl)cyclopropanol (see International Patent Application Publication No. WO 08/057209) (17.1 g) in acetonitrile (193 mL) was added N,N′-disuccinimidyl carbonate (49.3 g) then triethylamine (53.7 mL) The mixture was heated to 40° C. for 18 hours. The reaction mixture was cooled to room temperature and the solids were removed by filtration. The solvent was removed in vacuo. The residue was purified by flash chromatography (ISCO, 10 to 70% ethyl acetate in hexanes) to give the desired product (18 g). 1H NMR (500 MHz, CDCl3): δ (ppm) 4.06-4.03 (m, 1H), 2.87 (s, 4H), 2.28-2.25 (m, 2H), 1.98-1.97 (m, 1H), 1.72-1.63 (m, 2H), 1.44-1.39 (m, 2H), 1.30-1.25 (m, 1H), 1.12-1.08 (m, 1H), 0.72-0.68 (m, 1H).

reactant | (1R,2R)-2-(pent-4-en-1-yl)cyclopropanol | C(CCC=C)[C@H]1[C@@H](C1)O | C8H14O
reactant | N,N′-disuccinimidyl carbonate | 49.3 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | triethylamine | 53.7 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 193 mL | C(C)#N | C2H3N
product | 1-[({[(1R,2R)-2-(pent-4-yn-1-yl)cyclopropyl]oxy}carbonyl)oxy]pyrrolidine-2,5-dione | 18 g | C(CCC#C)[C@H]1[C@@H](C1)OC(=O)ON1C(CCC1=O)=O | C13H15NO5
